US09422271B2
A mixture of tert-butylimino(thiophen-2-yl)methylcarbamate (2 g, 12 mmol, 1.0 eq), ethyl propiolate (1.4 g, 13 mmol, 1.1 eq.) and K2CO3 (1.7 g, 12 mmol, 1.0 eq) in EtOH (60 mL) was stirred at 80° C. overnight. The solid was collected and washed with ether to provide 2-(thiophen-2-yl)pyrimidin-4-ol (1.1 g, 53%) for the next step. LC-MS (m/z)=179 [M+H]+

reactant | tert-butylimino(thiophen-2-yl)methylcarbamate | 12 mmol, 2 g, 1.0 eq | C(C)(C)(C)N=C(C=1SC=CC1)NC([O-])=O
reactant | ethyl propiolate | 13 mmol, 1.4 g, 1.1 eq. | C(C#C)(=O)OCC | C5H6O2
reactant | K2CO3 | 12 mmol, 1.7 g, 1.0 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 60 mL | CCO | C2H6O
product | 2-(thiophen-2-yl)pyrimidin-4-ol | 1.1 g, 53% | S1C(=CC=C1)C1=NC=CC(=N1)O | C8H6N2OS
